US05807859
0.4 g of 80% sodium hydride is added over 5 minutes to a stirred solution, under an argon atmosphere, of 0.6 g of 10-methyl-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in 30 ml of dimethylformamide. The stirring is continued for 10 minutes at a temperature in the region of 20° C., then 0.35 ml of trimethylchlorosilane is added and the stirring is continued for 10 minutes. 82 mg of sodium hydride are then added and the stirring is continued for 1 hour. 0.5 g of 2-chloromethyl-1-methylimidazole hydrochloride is then added and the stirring is continued for 2 hours. The reaction mixture is treated with 6 ml of acetic acid and 200 ml of water. The solution obtained is washed with ethyl acetate (2×200 ml) and the aqueous phase is concentrated on a rotary evaporator. The evaporation residue is triturated with 20 ml of isopropanol and filtered, and the filtrate is concentrated on a rotary evaporator. A pasty residue is obtained which is purified by chromatography on a column of silica (80 g), eluting with a dichloromethane/methanol mixture (85/15 by volume). 0.28 g of 10-methyl-10-[(l-methylimidazol-2-yl)methyl]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a cream-coloured solid melting above 260° C. (Analysis, % calculated C: 68.87, H: 5.17, N: 21.13, O: 4.83, % found C: 68.8, H: 5.2, N: 21.2).

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 10-methyl-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.6 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | trimethylchlorosilane | 0.35 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium hydride | 82 mg | [H-].[Na+]
reactant | 2-chloromethyl-1-methylimidazole hydrochloride | 0.5 g | Cl.ClCC=1N(C=CN1)C
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 10-methyl-10-[(l-methylimidazol-2-yl)methyl]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.28 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC=3N(C=CN3)C | C19H17N5O
